US05442063
Potassium carbonate (3.32 g, 0.024 mol) and acetone (200 ml) were added to 2-(2,5-dimethylphenoxymethyl)-α-hydroxyiminobenzyl cyanide (E/Z=15/85) (5.61 g, 0.02 mol). The mixture was stirred for 5 minutes. Then dimethyl sulfate (3.03 g, 0.024 mol) was added, and the mixture was stirred at room temperature for 18 hours. After completion of the reaction, the resulting insoluble materials were removed. To the residue obtained after evaporation under reduced pressure, toluene (50 ml) and 1N aqueous sodium hydroxide solution (50 ml) were added. The mixture was stirred for 1 hour. After stirring, water (150 ml) was added. The mixture was extracted with ether (150 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromarography (ethyl acetate/n-hexane) to give 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide (5.44 g, Yield: 92.4%, E/Z=15/85).

reactant | Potassium carbonate | 0.024 mol, 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2,5-dimethylphenoxymethyl)-α-hydroxyiminobenzyl cyanide | 0.02 mol, 5.61 g | CC1=C(OCC2=C(C(=NO)C#N)C=CC=C2)C=C(C=C1)C | C17H16N2O2
reactant | dimethyl sulfate | 0.024 mol, 3.03 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide | 5.44 g, Yield: 92.4% | CC1=C(OCC2=C(C(=NOC)C#N)C=CC=C2)C=C(C=C1)C | C18H18N2O2
